US08030305B2
6-Iodo-1H-quinazolin-4-one (0.50 g, 1.84 mmol) was added to a solution of sodium hydride (0.110 g, 2.76 mmol) in THF (10 mL) and stirred at room temperature for one hour. 1-Chloromethyl-4-methoxy-benzene (0.345 g, 2.21 mmol) was added and the reaction was stirred for several hours. Water was added and the crude product was extracted from ethyl acetate and evaporated in vacuo. The product was purified via silica gel column chromatography in hexane:ethyl acetate (4:1) to give 0.69 g (96%) of 6-iodo-3-(4-methoxy-benzyl)-3H-quinazolin-4-one. 1H NMR (400 MHz, CDCl3) δ 8.57 (d, 1H, J=2.0 Hz), 8.01 (s, 1H), 7.90 (dd, 1H, J=2.0, 8.8 Hz), 7.33 (d, 1H, J=8.8 Hz), 7.22 (d, 2H, J=8.0 Hz), 6.80 (d, 2H, J=8.8 Hz), 5.03 (s, 2H), 3.70 (s, 3H).

reactant | 6-Iodo-1H-quinazolin-4-one | 1.84 mmol, 0.50 g | IC=1C=C2C(N=CNC2=CC1)=O | C8H5IN2O
reactant | sodium hydride | 2.76 mmol, 0.110 g | [H-].[Na+]
reactant | 1-Chloromethyl-4-methoxy-benzene | 2.21 mmol, 0.345 g | ClCC1=CC=C(C=C1)OC | C8H9ClO
reactant | Water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-iodo-3-(4-methoxy-benzyl)-3H-quinazolin-4-one | 0.69 g, 96% | IC=1C=C2C(N(C=NC2=CC1)CC1=CC=C(C=C1)OC)=O | C16H13IN2O2
